US05266283
3-t-butyl-5-t-octylsalicylaldehyde
2-t-butyl-4-t-octylphenol (140 g, 0.53 mole) was dissolved in 420 ml of absolute ethanol in a 3 L round bottom flask equipped with a water-cooled condenser. Sodium hydroxide (213 g, 5.3 moles) was dissolved in 200 ml water and added while still hot to the solution of phenol. Chloroform (127 g, 1.06 mole) was added in 2 to 3 ml portions over a 1 hour period. The resulting yellow-brown mixture was stirred for 1 hour while it cooled to ambient temperature. The mixture was diluted into 500 ml of 5M hydrochloric acid. The organic layer was isolated in a separatory funnel and dried over anhydrous magnesium sulfate. The mixture was filtered and rotoevaporated to a thick syrup to yield 26% crude product with an IR spectrum having the characteristic aldehyde carbonyl stretching frequency. The product was used without further purification.

reactant | 2-t-butyl-4-t-octylphenol | 0.53 mole, 140 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)CC(C)(C)C)O | C18H30O
reactant | Sodium hydroxide | 5.3 moles, 213 g | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Chloroform | 1.06 mole, 127 g | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 5M, 500 ml | Cl | ClH
solvent | ethanol | 420 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 3-t-butyl-5-t-octylsalicylaldehyde | 26% | C(C)(C)(C)C1=C(C(C=O)=CC(=C1)C(C)(C)CC(C)(C)C)O | C19H30O2
